data/mechanism_extracts/Angew/10.1002_ange.202403461.json
{"doi": "10.1002_ange.202403461", "journal": "Angew", "is_review": false, "rxn_class_summary": "Photoinduced dearomative [2+2] cycloaddition of quinolines/isoquinolines/phenanthrenes with alkenes enabled by borate complex formation, affording fused 2D/3D 6-6-4-6 frameworks bearing cyclobutane rings.", "mechanism_family": ["biradical", "other"], "electrochemical_role": null, "key_intermediates": [{"name": "anionic N-borate complex INT-A/INT-B (1,2-dihydroquinoline lithium borate, IM1-B)", "smiles": null, "role": "reactive"}, {"name": "excited singlet borate complex 1IM1-B* (1II*)", "smiles": null, "role": "transient"}, {"name": "excited triplet borate complex 3IM2-B* (3III*) — 1,2-dihydroquinoline-derived triplet diradical", "smiles": null, "role": "reactive"}, {"name": "triplet biradical 3IM3-B* (after C3–C alkene bond formation, benzyl radicals at C4 of DHQ and on stilbene)", "smiles": null, "role": "reactive"}, {"name": "closed-shell cyclobutane-fused dihydroquinoline IM4-B (V, product precursor)", "smiles": null, "role": "reactive"}, {"name": "lithiated (non-borate) intermediate 3IM2-Li* → rearomatized 3IM5-Li* (off-pathway, yields by-product VI)", "smiles": null, "role": "off_pathway"}, {"name": "INT-C (isoquinoline-derived borate)", "smiles": null, "role": "reactive"}, {"name": "INT-D (phenanthrene-derived borate)", "smiles": null, "role": "reactive"}], "electron_flow": "Deprotonation/addition of nBuLi and HB(pin) (or B(eg)) onto the heteroarene generates an anionic N-borate complex; UV/visible photoexcitation gives a singlet excited state that undergoes ISC to a longer-lived triplet diradical, which adds stepwise to the alkene to form a triplet 1,4-biradical that closes via a minimum-energy crossing point (S0/T1 MECP) to the cyclobutane-fused dearomatized product, which is acylated (AcCl) to deliver the isolated product.", "rate_determining_step": "Triplet C–C bond formation at the C3 position of the dihydroquinoline borate with the stilbene alkene via 3TS2_3-B* (ΔG‡ = 5.3 kcal/mol); the competing rearomatization via 3TS2_5-B* (13.3 kcal/mol) is suppressed by borate formation.", "probe_reagents": [{"name": "transient absorption spectroscopy (ns laser, 355 nm)", "smiles": null, "purpose": "other", "observation": "Absorption at ~500 nm with ~10 ns lifetime for both INT-A and INT-B, assigned to excited singlet states; rules out a borate-induced change in triplet lifetime."}, {"name": "N–H / N–Ac analogues (vs N–Li/N–B(pin) borates)", "smiles": null, "purpose": "intermediate_trap", "observation": "Only borate (or lithiated) substrates undergo photoexcitation to the productive excited state; neutral N–H/N–Ac substrates do not enter the pathway, and lithiated-only gives rearomatized by-product 5a/6a instead of cycloaddition product 3aa."}, {"name": "control without HB(pin) for isoquinoline 12", "smiles": null, "purpose": "intermediate_trap", "observation": "No [2+2] cycloaddition product detected without HB(pin), confirming the borate INT-C is required."}, {"name": "X-ray crystallography (CCDC 2332939) of product 17", "smiles": null, "purpose": "other", "observation": "Confirms the dearomative cyclobutane-fused 2D/3D framework structure and diastereochemistry."}], "evidence_types_used": ["DFT", "UV_vis", "on/off_light_or_current", "isolation_of_intermediate", "stoichiometric_intermediate", "other"], "evidence_strength": "strong", "notes": "Two excited-state pathways were compared computationally: (favored) borate triplet 3IM2-B* → 3TS2_3-B* (5.3) → 3IM3-B* → MECP → IM4-B (cycloadduct, −55.1 kcal/mol); (alternative/off-pathway) borate rearomatization via 3TS2_5-B* (13.3 kcal/mol) giving 3IM5-B*, and lithiated 3IM2-Li* pathway in which 3TS2_5-Li* (7.9) is lower than 3TS2_3-Li* (14.8), explaining why the N–Li intermediate gives only rearomatized by-product. A singlet TS 3TS3_4-B* (39.9 kcal/mol) is ruled out in favor of an S0/T1 MECP for ring closure. Diastereoselectivity is rationalized by approach-direction TS energies (5.3 vs 6.1/7.1/16.6 kcal/mol). Cycloaddition occurs ~10^7 times faster than rearomatization, while rearomatization is ~10^5 times slower for the borate vs the lithiated intermediate."}
